US06884868B1
To a solution of 4-[2-[4-[4-(5-methoxypentyloxy)piperidin-1-yl]phenyl]imidazo[2,1-b][1,3,4]thiadiazol-6-yl]benzoic acid ethyl ester trifluroacetic acid salt (2.01 g) in a mixture of methanol (40 ml) and tetrahydrofuran (20 ml) was added 4N-NaOR (20 ml), and the mixture was refluxed for 6 hours. The reaction mixture was cooled, poured into water (200 ml) and adjusted to pH 2 with conc. HCl. The resulting precipitate was collected by filtration, washed in turn with water, isopropyl alcohol (30 ml) and IPE (50 ml) to give 4-[2-[4-[4-(5-methoxypentyloxy)piperidin-1-yl]phenyl]imidazo[2,1-b][1,3,4]thiadiazol-6-yl]benzoic acid (1.28 g).

reactant | 4-[2-[4-[4-(5-methoxypentyloxy)piperidin-1-yl]phenyl]imidazo[2,1-b][1,3,4]thiadiazol-6-yl]benzoic acid ethyl ester trifluroacetic acid salt | 2.01 g | FC(C(=O)O)(F)F.C(C)OC(C1=CC=C(C=C1)C=1N=C2SC(=NN2C1)C1=CC=C(C=C1)N1CCC(CC1)OCCCCCOC)=O
reactant | water | 200 ml | O | H2O
reactant | HCl | Cl | ClH
solvent | methanol | 40 ml | CO | CH4O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-[2-[4-[4-(5-methoxypentyloxy)piperidin-1-yl]phenyl]imidazo[2,1-b][1,3,4]thiadiazol-6-yl]benzoic acid | 1.28 g | COCCCCCOC1CCN(CC1)C1=CC=C(C=C1)C1=NN2C(S1)=NC(=C2)C2=CC=C(C(=O)O)C=C2 | C28H32N4O4S
